US09328124B2
2-Bromo-1-pyrazin-2-yl-ethanone hydrobromide
To a stirred solution of acetylpyrazine (10 g, 81.88 mmol) in acetic acid (70 mL) is added hydrogen bromide (38% acetic acid solution, 16 mL) followed by pyridinium bromide perbromide (28 g, 83.17 mmol) which is added in a single portion. The reaction is stirred at room temperature for approximately 1.5 hours. A suspension is formed during this time. Diethyl ether is added (500 mL) and the resulting precipitate is collected by filtration. The isolated product is washed with acetonitrile and diethyl ether and is dried under vacuum to give a pale brown solid (23.2 g, quantitative yield). 1H NMR (d6-DMSO) δ 9.19 (1H, m), 8.95 (1H, m), 8.84 (1H, m), 5.02 (2H, s).

reactant | acetylpyrazine | 81.88 mmol, 10 g | C(C)(=O)C1=NC=CN=C1 | C6H6N2O
reactant | hydrogen bromide | 16 mL | Br | BrH
reactant | pyridinium bromide perbromide | 83.17 mmol, 28 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-1-pyrazin-2-yl-ethanone hydrobromide | 23.2 g, quantitative yield | Br.BrCC(=O)C1=NC=CN=C1 | InChI=1S/C6H5BrN2O.BrH/c7-3-6(10)5-4-8-1-2-9-5;/h1-2,4H,3H2;1H
